US07790756B2
To a solution of 2,4-difluorophenol (2 g, 15.4 mmol) in CH2Cl2 (20 mL) was added triethyl amine (3.21 ml, 23 mmol) and ethyl chloroformate (1.77 ml, 18.4 mmol) at 0° C. After stirring the mixture for 1 h at RT, sat. NaHCO3 solution (30 mL) was added, the organic layer was separated and the aqueous layer was extracted with CH2Cl2 (1×25 ml). The combined organic layers were washed with brine, dried (Na2SO4) and concentrated to afford 2,4-difluorophenyl ethyl carbonate (3.11 g, 100% yield) as a liquid.

reactant | 2,4-difluorophenol | 15.4 mmol, 2 g | FC1=C(C=CC(=C1)F)O | C6H4F2O
reactant | triethyl amine | 23 mmol, 3.21 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 18.4 mmol, 1.77 ml | ClC(=O)OCC | C3H5ClO2
reactant | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 2,4-difluorophenyl ethyl carbonate | 3.11 g, 100% yield | C(OC1=C(C=C(C=C1)F)F)(OCC)=O | C9H8F2O3
